US09238640B2
Hydantoin (0.80 g, 8.00 mmol) was dissolved in DMF (10 mL) and cooled to 0° C. Sodium hydride (60% in mineral oil, 88 mg, 2.20 mmol) was added. The mixture was stirred at room temperature for 3 hours. 4-(Bromomethyl)benzaldehyde (0.40 g, 2.00 mmol) was added. The mixture was stirred at room temperature for 2.5 days. Saturated aqueous NH4Cl (1 mL) was added. The mixture was concentrated to dryness. Water (10 mL) was added, extracted with dichloromethane, and the organic phase was dried over anhydrous Na2SO4. Solvent was removed and the crude compound was purified by column chromatography (silica gel 230-400 mesh; 5% methanol in CH2Cl2 as eluent) to give 4-(2,5-dioxo-imidazolidin-1-ylmethyl)-benzaldehyde as a white solid. Yield: 0.28 g (64%).

reactant | Hydantoin | 8.00 mmol, 0.80 g | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | Sodium hydride | 2.20 mmol, 88 mg | [H-].[Na+]
reactant | 4-(Bromomethyl)benzaldehyde | 2.00 mmol, 0.40 g | BrCC1=CC=C(C=O)C=C1 | C8H7BrO
reactant | NH4Cl | 1 mL | [NH4+].[Cl-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(2,5-dioxo-imidazolidin-1-ylmethyl)-benzaldehyde | O=C1N(C(CN1)=O)CC1=CC=C(C=O)C=C1 | C11H10N2O3
